Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Bactrim
 
Attending: ___
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
1. Laparoscopy.
2. Extensive lysis of adhesions.
3. Washings.
4. Bilateral salpingo-oophorectomy.
5. Cystoscopy
6. Colonoscopy
 
History of Present Illness:
___ is a ___ woman with multiple medical problems who 
recently has been discovered to have a sizeable complex adnexal 
mass.  ___ reports essentially a 2-to 3-month history of fever 
of unknown origin, anemia, and elevated platelet count and she 
has been noted also to have an elevated sed rate and C-reactive 
protein.  Because of this, a CT scan was performed at an outside
institution.  A CT performed on ___ revealed a mixed 
solid and cystic right adnexal mass measuring 8.5 cm x 4.5 x 6 
cm.  There is notably stranding in the adjacent fat, 
particularly along the superior aspect of the mass.  The mass 
extends from the adnexal region on the right side to the 
posterior wall of the cecum.  Small mesenteric lymph nodes are 
noted within the adjacent fat and no left-sided adnexal masses 
appreciated.  There is a small amount of free fluid within the 
lower pelvis, but otherwise there are no significant 
abnormalities.  There is no ascites.  There is no evidence of an 
omental cake.  The upper abdomen is normal.  ___ reports that 
tumor markers have been done as well on the outside including a 
CEA level and CA-125  level and evidently these were ? normal.  
She denies any complaints at this time.  She denies fever.  She 
does report right lower quadrant discomfort and having 
experience of blood in her urine, which was associated with the 
urinary tract infection in ___.  Otherwise, she has had no 
symptoms or concerns.
 
Past Medical History:
PAST MEDICAL HISTORY:  ___ has got a number of medical 
problems stemming from hypertension and diabetes.  She has had 
diabetes for a long period of time and her most recent 
hemoglobin A1c level was notably elevated at 14%.  She has a 
history of coronary artery disease and had a CABG in ___.  She 
reportedly has an ejection fraction of 50 to 55%.  She has a 
history of hyperlipidemia and hypertension.  With respect to her 
bypass, she has had stents placed as well.  Her CABG was 
complicated by a sternal wound infection.  Her most recent echo 
was obtained on ___.  This reveals ejection fraction of 
greater than or equal to 55% with no evidence of endocarditis.  
She has never had a colonoscopy and she had her last mammogram 
___ years ago. She also has anemia and her most recent 
hematocrit was 30%.  She has an elevated platelet level greater 
than 500.
.
PAST SURGICAL HISTORY:  In ___ and ___, she had her coronary
artery bypass.  She has had three C-sections.
.
OB/GYN HISTORY:  She denies any history of pelvic infections. 
She denies any history of abnormal Pap smears, and her last was
obtained in ___.  She denies any complications of cesarean
section.
 
Social History:
___
Family History:
She reports her mother developed lung cancer, she was a smoker.  
She had a grandmother and an aunt who had breast cancer, 
grandmother was sick in her ___ and her aunt was in her ___.  
There is no other family history of cancer.
 
Physical Exam:
GENERAL:  She appears her stated age, in no apparent distress.
HEENT:  Normocephalic, atraumatic.  Oral mucosa without evidence 
of thrush or mucosa.  Eyes, sclerae are anicteric.
NECK:  Supple, no masses, no evidence of thyromegaly.
LYMPHATICS:  Lymph node survey, negative cervical, 
supraclavicular, axillary, or inguinal adenopathy.
CHEST:  Lungs clear bilaterally.
HEART:  Regular rate and rhythm.  A systolic murmur is 
appreciated.
ABDOMEN:  Soft, nontender, and nondistended.  There is no hepato 
or splenomegaly.  There is no fluid wave.  There is no palpable 
mass.
EXTREMITIES:  There is no clubbing, cyanosis, or edema.  There 
is no calf tenderness to palpation.
PELVIC:  Normal external genitalia.  Inner labia minora is 
normal.  The urethral meatus is normal.  A speculum was placed.  
The walls of the vagina are smooth.  The cervix is normal.  
There is no cervical motion tenderness.  Bimanual exam reveals 
an anteverted uterus.  There is fullness on the right side.  
There is no nodularity.  There is no mass on the left side. 
RECTAL:  Reveals good sphincter tone without mass or lesion. 
There is no evidence of disease within the rectovaginal septum 
or nodularity.
 
Brief Hospital Course:
Ms. ___ was admitted for perioperative optimization 3 days 
prior to her scheduled laparoscopic bilateral 
salpingo-oopherectomy. The internal medicine service was 
consulted to optimize management of her multiple medical 
problems. She underwent colonoscopy on hospital day 2, which 
showed a 3mm benign-appearing, sessile polyp. She had a 
pre-operative labs, chest x-ray and EKG on hospital day 3; she 
was also seen by anesthesiology. On hospital day 4, she 
underwent laparoscopy, extensive lysis of adhesions, peritoneal 
washings, bilateral salpingo-oophorectomy, and cystoscopy. 
Please see operative note for full details. Her post-operative 
course was characterized by the following:
.
*) fever
She spiked a fever on post-operative day 1. There was no 
leukocytosis and no bandemia. Her EKG showed no changes and CXR 
was clear. In the absence of any other temperature spikes over 
the course of the day, this was thought to be due to a benign 
post-operative fever. She will be discharged home with a 7 day 
course of doxycycline given operative findings suggestive of 
prior PID infection. 
.
*) CAD
She was placed on telemetry and had no events during her 
hospitalization. Her home medications were continued - 
clopidogrel was started on post-operative day 1. Post-op cardiac 
enzymes were checked, found to be negative x2 and EKG showed no 
changes. Electrolytes and CBC were also stable. Ms. ___ was 
without any cardiac complaints for the duration of her hospital 
stay.
.
*) HTN
Home medications were continued. She had no issues during her 
hospitalization.
.
*) insulin-dependent diabetes mettilus
Ms. ___ blood sugars were maintained below 150 during her 
hospital course. She was on her home Lantus and a sliding scale 
insulin.
.
Ms. ___ was eventually discharged on post-operative day 
#2/hospital day #6 in stable condition: afebrile, able to eat 
regular food, under adequate pain control with oral medications, 
and ambulating and urinating without difficulty.
 
Medications on Admission:
AMLODIPINE [NORVASC] - 10 mg Tablet - 1 Tablet(s) by mouth once 
a day
ATORVASTATIN - 80 mg Tablet - 1 Tablet(s) by mouth at bedtime
CLOPIDOGREL [PLAVIX] - 75 mg Tablet - 1 Tablet(s) by mouth once 
a day
ERGOCALCIFEROL (VITAMIN D2) [VITAMIN D] -  (Prescribed by Other 
Provider) - 50,000 unit Capsule - 1 Capsule(s) by mouth Qweek
EZETIMIBE [ZETIA] - 10 mg Tablet - 1 Tablet(s) by mouth once a 
day
FUROSEMIDE [LASIX] - 40 mg Tablet - 1.5 Tablet(s) by mouth once 
a day
GABAPENTIN [NEURONTIN] - 300 mg Capsule - 1 Capsule(s) by mouth 
three times a day
ISOSORBIDE MONONITRATE [IMDUR] - 30 mg Tablet Sustained Release 
24 hr - 1 Tablet(s) by mouth once a day
METOPROLOL TARTRATE [LOPRESSOR] - 100 mg Tablet - 1 Tablet(s) by 
mouth twice a day
NITROGLYCERIN - 0.4 mg Tablet, Sublingual - 1 Tablet(s) 
sublingually as needed
.
Medications - OTC
ASPIRIN - 325 mg Tablet - 1 Tablet(s) by mouth once a day
FERROUS SULFATE -  (Prescribed by Other Provider) - Dosage
uncertain
 
Discharge Medications:
1. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

2. Metoprolol Tartrate 50 mg Tablet Sig: Two (2) Tablet PO BID 
(2 times a day).  
3. Furosemide 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
4. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours).  
5. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain.  

6. Insulin Glargine  Subcutaneous
7. Vicodin ___ mg Tablet Sig: ___ Tablets PO every ___ hours 
as needed for pain. Disp:*30 Tablet(s)* Refills:*0*
8. Ibuprofen 800 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain. Disp:*30 Tablet(s)* Refills:*0*
9. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day. 
Disp:*30 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right adnexal/pelvic mass
H/o CAD, CABG, DM, high blood pressure

 
Discharge Condition:
Stable

 
Discharge Instructions:
No heavy lifting or vigorous exercise for 6 weeks.  No driving 
while on narcotics.  You may shower, pat your incisions dry.  
Remove the dressings tomorrow evening, the Steri-strips will 
fall off on their own. Call for severe pain not controlled with 
pain medications, fever >101, redness or discharge from your 
incisions, chest pain, shortness of breath, or other concerns. 
 
Followup Instructions:
___